US06759511B2
Methyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylate (5.0 g, 12.43 mmol) prepared in the capping step was dissolved in THF/H2O (200 ml/100 ml), 1N LiOH (30 ml) was added thereto, and the mixture was stirred for 4 days at room temperature. The reaction solution was acidified to pH 2.0 by 1N HCl and then extracted with EA and water. The organic layer was washed with aqueous NaCl solution and dried over anhydrous MgSO4. The solvent contained therein was removed to give a white solid, which was then recrystallized from EA and n-hexane to give 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxy carbonylamino]-1H-pyrrole-2-carboxylic acid (3.20 g, 66.29%) of a pale yellow solid.

reactant | Methyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylate | 12.43 mmol, 5.0 g | CN1C(=CC(=C1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C17H17F3N2O4S
reactant | LiOH | 1N, 30 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF H2O | 200 ml | C1CCOC1.O
product | 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxy carbonylamino]-1H-pyrrole-2-carboxylic acid | 3.20 g, 66.29% | CN1C(=CC(=C1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C(=O)O | C16H15F3N2O4S
